US07723367B2
C-(6-Fluoro-2-methyl-pyridin-3-yl)-methylamine
The title compound was prepared using the procedure as described in Example 78B, substituting 6-fluoro-2-methyl-nicotinonitrile for the product of Example 78A. MS (DCI/NH3) m/z 141 (M+1)+.

reactant | 6-fluoro-2-methyl-nicotinonitrile | FC1=NC(=C(C#N)C=C1)C | C7H5FN2
reactant | NH3 | N | H3N
product | C-(6-Fluoro-2-methyl-pyridin-3-yl)-methylamine | FC1=CC=C(C(=N1)C)CN | C7H9FN2
